Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ - Coronary artery bypass grafts x3 (LIMA-LAD, 
SVG-PDA, SVG-OM); Endovascular saphenous vein harvest LLE

 
History of Present Illness:
___ man with past medical history of type I diabetes 
mellitus, hypertension, heavy smoker who presented to outside 
hospital for evaluation of intermittent retrosternal "molding 
"chest discomfort intermittently radiating
in between shoulder blades and left arm and associated with some 
difficulty breathing for 10 days prior to presentation. He had 
recurrent chest pain but troponin remained negative, cardiology 
was consulted and recommended cardiac catheterization that 
revealed significant coronary artery disease.  He is now
transferred for surgical evaluation.  

 
Past Medical History:
Type 1 diabetes mellitus since the age of ___
Diabetic neuropathy 
Hypertension
Tobacco habituation 
Alcohol use
Coronary artery disease
 
Social History:
___
Family History:
unremarkable

 
Physical Exam:
Pulse: 82 Resp: 18  O2 sat: 97% RA
B/P  Right: 109/54   Left: 
Height: 66.5 kgs    Weight: 68"

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+[x]
Extremities: Warm [x] well-perfused [x]  Edema [] _____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: 1+  Left: 1+
___           Right: 1+  Left: 1+
Radial       Right: cath site  Left: 2+

Carotid Bruit:        Right: no   Left: no

Discharge PE:
VS:98.4, 112 / 55, 99, 18, 98 % Ra 
General: A&O x3, NAD
___
Lungs:CTA
Abd:benign
Extr:trace
Wounds: C/D/I, stable, No rock/ click
 
Pertinent Results:
___ ECHO
PRE-BYPASS: 

 The left atrium is dilated. No mass/thrombus is seen in the 
left atrium or left atrial appendage. No atrial septal defect or 
PFO is seen by 2D or color Doppler. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>65%). Regional left ventricular wall motion is normal. 
Right ventricular chamber size and free wall motion are normal. 
There are simple atheroma in the descending thoracic aorta. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are structurally normal. Physiologic 
mitral regurgitation is seen (within normal limits). There is 
mild tricuspid regurgitation.There is a trivial/physiologic 
pericardial effusion. 

 POST-BYPASS:

 The patient is in sinus rhythm and receiving a phenylephrine 
infusion.

 1. Biventricular function remains preserved. There are no 
regional wall motion abnormalities.
 2. Valvular function is unchanged.
 3. The trivial pericardial effusion is no longer present.
 4. The thoracic aorta is intact following decannulation.

___ 08:46AM BLOOD Hct-31.3* Plt ___
___ 03:32AM BLOOD WBC-11.1* RBC-2.99* Hgb-9.7* Hct-28.1* 
MCV-94 MCH-32.4* MCHC-34.5 RDW-13.1 RDWSD-45.1 Plt ___
___ 03:32AM BLOOD ___ PTT-27.1 ___
___ 08:46AM BLOOD Glucose-197* UreaN-9 Creat-0.7 Na-136 
K-4.1 Cl-97 HCO3-28 AnGap-11
___ 09:55PM BLOOD Glucose-60* UreaN-5* Creat-0.6 Na-142 
K-3.6 Cl-104 HCO3-24 AnGap-14
 
Brief Hospital Course:
Mr. ___ was admitted to the ___ on ___ for surgical 
management of his coronary artery disease. He was worked up in 
the usual preoperative manner. He remained on IV heparin. On 
___, he was taken to the operating room where he underwent 
coronary artery bypass grafting to three vessels 
(LIMA-LAD,SVG-PDA, SVG-OM)  ; Endovascular saphenous vein 
harvest LLE. Please see operative note for further surgical 
details. Postoperatively he was taken to the intensive care unit 
for monitoring. Over the next several hours, he awoke 
neurologically intact and was extubated. He weaned off of 
pressor support. Beta-blocker/ASA/Statin and diuresis were 
initiated. Chest tubes and pacing wires were discontinued per 
protocol without incident. He transferred to the step down unit 
for further monitoring. Physical Therapy was consulted for 
evaluation of strength and mobility. He continued to progress. 
___ was consulted for his Type I Diabetes not well controlled 
and the pt's history of hypoglycemia unawareness. 
Recommendations appreciated. By the time of pod# 4 he was 
ambulating with assistance, wounds healing, and pain controlled. 
He was cleared for discharge to ___. 
All follow up appointments were advised.
 
Medications on Admission:
NPH insulin 23U q 11AM
Meds on transfer:
NPH 23U q 11AM
Atorvastatin 40 mg PO daily
ASA 325 mg PO daily
Lopressor 25 mg PO BID
Nicotine patch 21 mg tp q 24 hours
IV NTG 
Heparin 800 U/Hr IV

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Aspirin EC 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Docusate Sodium 100 mg PO BID  
5.  Furosemide 20 mg PO DAILY 
x 7 days  
6.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth q4h prn 
Disp #*15 Tablet Refills:*0 
7.  Metoprolol Tartrate 12.5 mg PO BID  
8.  Polyethylene Glycol 17 g PO DAILY  
9.  Potassium Chloride 20 mEq PO DAILY 
x 7 days  
10.  Ranitidine 150 mg PO BID  
11.  Tamsulosin 0.4 mg PO QHS  
12.  NPH 23 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease
Type 1 diabetes mellitus since the age of ___
Diabetic neuropathy 
Hypertension
Tobacco habituation 
Alcohol use

 
Discharge Condition:
Alert and oriented x3 nonfocal 
 Ambulating with steady gait

Incisional pain managed with oral analgesia

Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage. 
Trace Edema 

 
Discharge Instructions:
1) Please shower daily including washing incisions gently with 
mild soap, no baths or swimming until cleared by surgeon. Look 
at your incisions daily for redness or drainage.

2) Please NO lotions, cream, powder, or ointments to incisions. 
 3) Each morning you should weigh yourself and then in the 
evening take your temperature, these should be written down on 
the chart provided.
 4) No driving for approximately one month and while taking 
narcotics. Driving will be discussed at follow up appointment 
with surgeon when you will likely be cleared to drive. 
 5) No lifting more than 10 pounds for 10 weeks
 6) Please call with any questions or concerns ___

*Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___